US06080743
N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-4-methylpiperidine hydrobromide
100 mg (0.304 mmol) of 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline, 0.04 ml (1.1 equiv.) of 4-methyl-piperidine and 0.05 ml (1.2 equiv.) of triethylamine are stirred at reflux for 20 hours. The mixture is concentrated by evaporation and the residue is extracted with ethyl acetate and a 5% sodium carbonate solution. The combined organic phases are dried over magnesium sulfate and concentrated by evaporation.

reactant | 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline | 0.304 mmol, 100 mg | BrCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H10BrN3O4
reactant | 4-methyl-piperidine | 0.04 ml, 1.1 equiv. | CC1CCNCC1 | C6H13N
reactant | triethylamine | 0.05 ml, 1.2 equiv. | C(C)N(CC)CC | C6H15N
product | N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-4-methylpiperidine hydrobromide | Br.O=C1NC2=CC(=CC(=C2NC1=O)CN1CCC(CC1)C)[N+](=O)[O-] | InChI=1S/C15H18N4O4.BrH/c1-9-2-4-18(5-3-9)8-10-6-11(19(22)23)7-12-13(10)17-15(21)14(20)16-12;/h6-7,9H,2-5,8H2,1H3,(H,16,20)(H,17,21);1H
